US08530503B2
5-(3,4-diethoxyphenyl)-3-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1,2,4-oxadiazole
To a stirred solution of 3,4-diethoxybenzoic acid (50 mg, 0.24 mmol) in DMF was added EDCI (59 mg, 0.31 mmol) and HOBt (41 mg, 0.31 mmol), the reaction was stirred 20 min at room temperature. To the reaction was added the N-hydroxyimidamide (54 mg, 0.31 mmol) and the mixture was stirred for 30 min at room temperature followed by 16 h at 95° C. The reaction was concentrated under reduced pressure, diluted with EtOAc (80 ml) and washed with a saturated solution of NaHCO3 (2×30 ml) and brine (50 ml). The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The crude was purified by column chromatography using CH2Cl2:MeOH (9:1) to offer the product as a brown solid in 5% yield (4 mg, 0.01 mmol). MS (EI) m/z: 351 (M+)

reactant | 3,4-diethoxybenzoic acid | 0.24 mmol, 50 mg | C(C)OC=1C=C(C(=O)O)C=CC1OCC | C11H14O4
reactant | EDCI | 0.31 mmol, 59 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.31 mmol, 41 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DMF | CN(C)C=O | C3H7NO
product | 5-(3,4-diethoxyphenyl)-3-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1,2,4-oxadiazole | C(C)OC=1C=C(C=CC1OCC)C1=NC(=NO1)C1=C2C(=NC=C1)NC=C2 | C19H18N4O3
